US06329381B1
6-Amino-9-benzyl-2-benzylthiopurine
To DMF suspension (10 ml) containing sodium hydride (410 mg, 10 mmol, 60% in mineral oil) were added α-toluenethiol (1.7 ml, 14 mmol) and 6-amino-9-benzyl-2-chloropurine (100 mg, 0.39 mmol) in order. The mixture was stirred under heating at 100° C. for 4.5 hours. Brine was added thereto and the mixture was extracted with ethyl acetate. The organic layer was dried on magnesium sulfate, filtrated and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (0.5% methanol/chloroform) to give the subject compound (97 mg, yield 73%).

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 10 mmol, 410 mg | [H-].[Na+]
reactant | α-toluenethiol | 14 mmol, 1.7 ml | C1(=CC=CC=C1)CS | C7H8S
reactant | 6-amino-9-benzyl-2-chloropurine | 0.39 mmol, 100 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
solvent | Brine | [Cl-].[Na+].O
product | 6-Amino-9-benzyl-2-benzylthiopurine | 97 mg, yield 73% | NC1=C2N=CN(C2=NC(=N1)SCC1=CC=CC=C1)CC1=CC=CC=C1 | C19H17N5S
